* Ideal diode model

.SUBCKT id_diode anode cathode
+PARAMS: R_ON=1e-4 VD_ON=0

* Convergence help
R_conv anode 0 1e8

SW_DIODE anode mid_node IDDIODE OFF CONTROL={IF(I(V_MEAS) > 0, 1, 0)}

B_DROP mid_meas cathode V={IF(V(anode, cathode)<VD_ON, IF(V(anode, cathode)>0, V(anode, cathode), 0), VD_ON)} smoothbsrc=1
+ rcconst = {GLOBAL_TS*1e-10}

V_MEAS mid_node mid_meas 0

.MODEL IDDIODE SWITCH RON={IF(R_ON<1e-5,1e-5,R_ON)} ROFF=1e5 ON=0.99 OFF=0.01

.ENDS id_diode
